US07396844B1
Synthesis of 3-(3-bromopropyl)benzonitrile
1.5 g (8.56 mmol) of 3-(3-cyanophenyl)propionic acid and 1.19 ml (8.56 mmol) of triethylamine were dissolved in 42 ml of tetrahydrofuran. 0.819 ml (8.56 mmol) of ethyl chloroformate was added to the solution under cooling with ice, and they were stirred for 20 minutes. Precipitates thus formed were removed by the suction filtration. 3 g of ice and 0.648 g (17.12 mmol) of sodium borohydride were added to the filtrate under cooling with ice, and they were stirred for 1 hour. 20 ml of 1 N aqueous hydrogen chloride solution was added to the reaction mixture, and they were stirred at room temperature for one hour. After the treatment with ethyl acetate as the extractant in an ordinary manner, an oily residue was obtained, which was dissolved in 86 ml of dichloromethane. 5.68 g (17.12 mmol) of carbon tetrabromide and 2.69 g (10.27 mmol) of triphenylphosphine were added to the solution, and they were stirred at room temperature for one hour. The reaction mixture was treated with ethyl acetate as the extractant in an ordinary manner to obtain the crude compound, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | 3-(3-cyanophenyl)propionic acid | 8.56 mmol, 1.5 g | C(#N)C=1C=C(C=CC1)CCC(=O)O | C10H9NO2
reactant | triethylamine | 8.56 mmol, 1.19 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 8.56 mmol, 0.819 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 17.12 mmol, 0.648 g | [BH4-].[Na+]
reactant | hydrogen chloride | 1 N, 20 ml | Cl | ClH
reactant | carbon tetrabromide | 17.12 mmol, 5.68 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 10.27 mmol, 2.69 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 42 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 86 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-bromopropyl)benzonitrile | BrCCCC=1C=C(C#N)C=CC1 | C10H10BrN
